* C:\Users\thu_tsh\Documents\IOT Switch\IOT-Application---All-files\Simulation\Draft6.asc
XU1 N006 N005 N002 LT317A
R1 N005 N006 1000
R§3 N006 0 9.1k
D1 N003 N002 1N4148
D2 N004 N002 1N4148
D3 0 N003 1N4148
D4 0 N004 1N4148
C1 N002 0 220µ
C2 N002 0 100µ
C3 N002 0 10µ
V1 N001 0 SINE(0 325.26 50 0 0 0 100) Rser=0.1
L1 N001 0 335.99m
L2 N004 N003 1m
L3 N007 N001 1m
L4 N008 N009 1000000m
R3 N009 N008 50
R4 N007 0 11.5
R5 N010 N008 1k
R6 N008 0 800
C4 N008 0 100p
XU2 N011 N010 N002 LT317A
R7 N010 N011 1k
R8 N011 0 1.6k
C7 N010 0 1µ
C8 N005 0 1µ
.model D D
.lib C:\Users\thu_tsh\Documents\LTspiceXVII\lib\cmp\standard.dio
.tran 0 5 0 0.01
K L1 L2 1
K1 L3 L4 1
.lib LTC.lib
.backanno
.end
